US07842696B2
DIPEA (110.8 mg, 0.147 mL, 0.85 mmol) was added to a stirred solution of biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (100 mg, 0.22 mmol) in DMF (3 mL). HOBT (28.3 mg, 0.2 mmol) and EDCI.HCl (91.25 mg, 0.47 mmol) were then added. After 2 minutes 3-methyl-thiophene-2-carboxylic acid (27 mg, 0.19 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water. The product was extracted with ethyl acetate and the ethyl acetate layer was washed with NaHCO3 solution, saturated brine solution, dried over sodium sulphate and concentrated under reduced pressure to afford 62 mg (72.9% yield) of biphenyl-4-carboxylicacid {2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 90.22%, HPLC Purity: 92.38%, 1H NMR: (CDCl3) δ 7.9 (d, 2H), 7.75-7.6 (m, 4H), 7.5 (m, 2H), 7.4 (m, 1H), 7.3-7.4 (m, 2H), 6.9 (d, 1H), 4.3 (d, 2H), 3.7 (m, 6H), 3.5 (m, 2H), 2.4 (s, 3H).

reactant | DIPEA | 0.85 mmol, 0.147 mL, 110.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.22 mmol, 100 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.2 mmol, 28.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.47 mmol, 91.25 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3-methyl-thiophene-2-carboxylic acid | 0.19 mmol, 27 mg | CC1=C(SC=C1)C(=O)O | C6H6O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 62 mg, 72.9% yield | CC1=C(SC=C1)C(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C25H25N3O3S
